datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[OH:10]C([H])/C(C)=C([H])\C([H])[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C([H])C([H])=C(C)C([H])[OH+:10]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CCCCCC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CCCCCC.[O-:21]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O]C(C)C([H])[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[OH:21][C:20]1(OC)C(C)C(C)=C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)/C(C)=C(C)\C(C)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"CCN([C:20]1(OC(C([O:21]1)CC)[H])[O-:10])CC>>CCN([C:20](=[O:10])OC(C([O-:21])CC)[H])CC 10=20;20,21=21"
"CN([C:20]([O-:10])(OCC)[O:21]C1=CC=CC=C1)[H]>>CN([C:20](=[O:10])OCC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O:10]C(CC)C([H])C1C>>[O-:10]C(CC)C([H])C([C:20](OC)=[O:21])C 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CCCCCC)CC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C([H])C(O)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(O)C([H])C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC)[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)[H].[O-:21]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[Cl-:21] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[O]C([H])C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C([H])C(C)[S]2.[H][O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC.[O-:21]C>>C1=CC=CC=C1C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CCCCCC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])=C([H])C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])/C([H])=C([H])\[C:20](C)=[O:21] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[O:10]([K])C(CC)C(C)C(C)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(C)C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][S:10]C(C)C([H])C([H])[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
